US06518257B1
(iii) Production of 2-{4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}-N-methylacetamide
By the reaction in the same manner as in Example 4-(iii) using 2-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}-N-methylacetamide (1.09 g) and pyridine hydrochloride (309 mg), the title compound (260 mg) was obtained as a colorless amorphous powder.

reactant | 2-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}-N-methylacetamide | 1.09 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)NC | C41H39N3O2
reactant | pyridine hydrochloride | 309 mg | Cl.N1=CC=CC=C1
product | 2-{4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}-N-methylacetamide | 260 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)NC | C22H25N3O2
